US08648066B2
Phenylmethyl{(1R)-1-[6-bromo-3-({[2-(trimethylsilyl)ethyl]oxy}methyl)-3H-imidazo[4,5-b]pyridin-2-yl]ethyl}({[2-(trimethylsilyl)ethyl]oxy}methyl)carbamate.
Synthesized according to the method of reagent preparation 19 by using 5-bromo-2,3-diaminopyridine and N-(benzyloxycarbonyl)-D-alanine in step 1 and 2-(trimethylsilyl)ethoxymethyl chloride in step 3. MS (EI) for C28H43BrN34O4Si2: 636 (MH+).

reactant | 5-bromo-2,3-diaminopyridine | BrC=1C=C(C(=NC1)N)N | C5H6BrN3
reactant | N-(benzyloxycarbonyl)-D-alanine | C(C1=CC=CC=C1)OC(=O)N[C@H](C)C(=O)O | C11H13NO4
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | C[Si](CCOCCl)(C)C | C6H15ClOSi
product | Phenylmethyl{(1R)-1-[6-bromo-3-({[2-(trimethylsilyl)ethyl]oxy}methyl)-3H-imidazo[4,5-b]pyridin-2-yl]ethyl}({[2-(trimethylsilyl)ethyl]oxy}methyl)carbamate | C1(=CC=CC=C1)COC(N(COCC[Si](C)(C)C)[C@H](C)C1=NC=2C(=NC=C(C2)Br)N1COCC[Si](C)(C)C)=O | C28H43BrN4O4Si2
